US07919506B2
N-(2-(4-methoxypiperidine-4-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
To a solution of tert-butyl 4-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate (321 mg; 0.461 mmol) in 1,4-dioxane (2.5 mL) was added 4.0M hydrogen chloride in 1,4-dioxane (0.5 mL; 2 mmol). The reaction was stirred at room temperature for 2 hours. 4.0M hydrogen chloride in 1,4-dioxane (1.5 mL; 6 mmol) was added and stirred for 1 hour. 4.0M hydrogen chloride in 1,4-dioxane (1.5 mL; 6 mmol) was added and stirred for 1 hour. The solvent was evaporated under reduced pressure. Ethyl acetate was added to the residue and was concentrated under reduced pressure. Isopropyl ether was added and let sit for 16 hours. The solvent was evaporated under reduced pressure to give a white solid. The white solid was triturated with isopropyl ether and filtered off to give 254 mg (87.1% yield) of a white solid. MS (ES+): Calc: 596.4, Found: 597.4 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.92 (s, 2H), 7.87 (s, 1H), 7.59 (d, J=8.30 Hz, 1H), 7.54(d, J=7.88 Hz, 1H), 7.45 (s, 1H), 5.14 (s, 2H), 4.96 (s, 2H), 4.19 (s, 3H), 3.35 (m, 4H), 3.03 (s, 3H), 2.56(d, J=12.86 Hz, 2H), 2.14 (m, 2H).

reactant | tert-butyl 4-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate | 0.461 mmol, 321 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C2(CCN(CC2)C(=O)OC(C)(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C30H33F9N6O3
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
product | N-(2-(4-methoxypiperidine-4-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 254 mg, 87.1% yield | COC1(CCNCC1)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C25H25F9N6O
